US07652007B2
a) (2,2-Diethoxyethyl)-(2-fluoroethyl)amine
A solution of 3.1 ml (21.5 mmol) of 1-amino-2,2-diethoxyethane, 3.0 g (23.6 mmol) of 1-bromo-2-fluoroethane and 5.56 g (43 mmol) of diisopropylethylamine was heated at 100° C. in a closed vessel for 6 hours. The reaction mixture was diluted with ether and washed with 1N NaOH and water. The organic phase was dried (MgSO4) and concentrated in vacuo. The residue was distilled in vacuo. 1.3 g of substance were obtained as a clear liquid.

reactant | 1-amino-2,2-diethoxyethane | 21.5 mmol, 3.1 ml | NCC(OCC)OCC | C6H15NO2
reactant | 1-bromo-2-fluoroethane | 23.6 mmol, 3.0 g | BrCCF | C2H4BrF
reactant | diisopropylethylamine | 43 mmol, 5.56 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ether | CCOCC | C4H10O
product | (2,2-Diethoxyethyl)-(2-fluoroethyl)amine | C(C)OC(CNCCF)OCC | C8H18FNO2
